US04959361
The title compound was obtained by coupling 4-(2-chlorophenyl)-2-iodo-9-methyl-6H-thieno [3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine with 2-ethynylpyridine under the conditions used in Example 37. The product was isolated by chromatography over the 50-fold amount of silica gel using 5% (v/v) of ethanol in methylene chloride. The fractions homogenous by TLC were combined and evaporated. Crystallization of the residue from ethyl acetate and recrystallization from tetrahydrofuran/methanol gave off-white crystals of 4-(2-chlorophenyl)-9-methyl-2-[2-(2-pyridinyl)-ethynyl]-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine with m.p. 153°-155°.

reactant | 4-(2-chlorophenyl)-2-iodo-9-methyl-6H-thieno [3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)I)C(=NN2)C | C15H10ClIN4S
reactant | 2-ethynylpyridine | C(#C)C1=NC=CC=C1 | C7H5N
reactant | ethanol | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(2-chlorophenyl)-9-methyl-2-[2-(2-pyridinyl)-ethynyl]-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C#CC3=NC=CC=C3)C(=NN2)C | C22H14ClN5S
